wheatstone_bridge - fault test
V1 pos 0 DC 20
C1 pos mid1 9.05e-06
R3 mid1 0 201.556668
R2 pos mid2 152.478393
R4 mid2 0 296.173458
Rg mid1 mid2 49.335197
.op
.control
run
print v(mid1) v(mid2) v(pos)
print @r3[i] @r2[i] @r4[i] @rg[i]
.endc
.end
